US07102008B2
The 3-hydroxy-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester (0.24 g, 1.14 mmol) was combined with the 4-chloromethyl-2-methyl-quinoline (0.313 g, 1.37 mmol) and cesium carbonate (1.1 g, 3.42 mmol) in DMSO (5 mL) at room temperature under a nitrogen atmosphere. The reaction was stirred for 18 h, filtered to remove the solids, and then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give a mixture of diasteromers. The product was purified by FCC on silica gel eluting with ethyl acetate:hexane (60:40, v: v) to give 3-hydroxy-2-methyl-3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-propionic acid methyl ester (0.352 g, 84%) as a glass. MS found: (M+H)+=366.

reactant | 3-hydroxy-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester | 1.14 mmol, 0.24 g | COC(C(C(C1=CC=C(C=C1)O)O)C)=O | C11H14O4
reactant | 4-chloromethyl-2-methyl-quinoline | 1.37 mmol, 0.313 g | ClCC1=CC(=NC2=CC=CC=C12)C | C11H10ClN
reactant | cesium carbonate | 3.42 mmol, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 3-hydroxy-2-methyl-3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-propionic acid methyl ester | 0.352 g, 84% | COC(C(C(C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)O)C)=O | C22H23NO4
